US05137905
Part A. (R)-t-Butyl 2-(hydroxymethyl)-1-pyrrolidinecarboxylate
Di-t-butyl dicarbonate (65.5 g, 0.30 mol) was added at 0° C. to a stirred solution of (R)-2-pyrrolidinemethanol (25.0 g, 0.25 mol) in THF (350 mL). After 15 min the solution was allowed to warm to room temperature and was stirred for an additional 1 hr. The THF was removed under reduced pressure and the residual oil was dissolved in chloroform and chromatographed on silica gel to give 40.6 g (81%) of product as an oil. An analytical sample was crystallized from ether; m.p. 57°-60° C. [α]D +55° (c 0.71, MeOH).

reactant | Di-t-butyl dicarbonate | 0.30 mol, 65.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-2-pyrrolidinemethanol | 0.25 mol, 25.0 g | N1[C@H](CCC1)CO | C5H11NO
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (R)-t-Butyl 2-(hydroxymethyl)-1-pyrrolidinecarboxylate | 40.6 g, 81% | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
